US05633279
A freshly prepared solution of lithium diisopropylamide (2.8 mmol/10 ml THF) was cooled to -78° C. and ethyl isobutyrate (0.75 ml) was added slowly. The solution was stirred at -78° C. for 40 minutes and then a solution of (E)-4-(1,3-dihydro-6-methoxy-4-methoxyethoxymethoxy-7-methyl -3-oxoisobenzofuran-5-yl)-2-methylbut-2-enyl bromide (0.6 g) in THF (2 ml) and HMPA (1.5 ml) was added via syringe at such rate that the temperature was maintained below -60° C. After stirring for 30 minutes at -78° C., the mixture was poured onto 100 ml of a concentrated solution of NH4Cl. The organic and aqueous phases were separated and the aqueous phase was extracted with ethyl acetate (2×50 ml). The combined organic layers were dried over Na2SO4 and evaporated to give a residue which was passed through a column (silica gel, CH2Cl2 -EtOAc 95:5) to afford 480 mg (74%) of ethyl (E)-6-(4-methoxyethoxymethoxy-1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran -5-yl)-2,2,4-trimethyl-4-hexenoate as a colorless oil.

reactant | lithium diisopropylamide | 2.8 mmol, 10 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | ethyl isobutyrate | 0.75 ml | C(C(C)C)(=O)OCC | C6H12O2
reactant | (E)-4-(1,3-dihydro-6-methoxy-4-methoxyethoxymethoxy-7-methyl -3-oxoisobenzofuran-5-yl)-2-methylbut-2-enyl bromide | 0.6 g | COC1=C(C(=C2C(OCC2=C1C)=O)OCOCCOC)C/C=C(/CBr)\C | C19H25BrO6
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | HMPA | 1.5 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | CH2Cl2 EtOAc | C(Cl)Cl.CCOC(=O)C
product | ethyl (E)-6-(4-methoxyethoxymethoxy-1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran -5-yl)-2,2,4-trimethyl-4-hexenoate | 480 mg, 74% | COCCOCOC1=C2C(OCC2=C(C(=C1C/C=C(/CC(C(=O)OCC)(C)C)\C)OC)C)=O | C25H36O8
